US07517992B2
a) 5,8-difluoro-4-methyl-3,4-dihydro-1(2H)-naphthalenone
1,4-Difluorobenzene (22 ml, 210 mmol) was mixed with gamma-valerolactone (4 ml, 42 mmol) and AlCl3 (28 g, 210 mmol) was added by portions to the stirred reaction mixture. The reaction mixture was then refluxed at stirring for 16 h (oil bath 110° C.). The reaction mixture was cooled down (ice/brine bath) and ice/conc. HCl was added and stirred until homogeneous mixture was obtained. The reaction mixture was then extracted into methylene chloride, washed with water (4×10 ml) and sodium bicarbonate solution (3×100 ml). The organic extract was dried over Na2SO4. Concentration by rotary evaporation gave 6.7 g of product as yellow powder. Yield 81%.

reactant | 1,4-Difluorobenzene | 210 mmol, 22 ml | FC1=CC=C(C=C1)F | C6H4F2
reactant | gamma-valerolactone | 42 mmol, 4 ml | C1(CCC(C)O1)=O | C5H8O2
reactant | AlCl3 | 210 mmol, 28 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
product | 5,8-difluoro-4-methyl-3,4-dihydro-1(2H)-naphthalenone | 6.7 g, Yield 81% | FC1=C2C(CCC(C2=C(C=C1)F)=O)C | C11H10F2O
